US07714010B2
Analogously to the general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (2 g) is alkylated using 1-bromo-2-butanone (1.7 ml; 15.2 mmol) and K2CO3 (2.1 g; 15.2 mmol) at 30° C. for 24 h. After aqueous work-up and purification by RP chromatography the pure material (0.65 g) is de-acetylated in MeOH (70 ml) using DBU (0.6 ml) at reflux. After aqueous work-up 5-amino-3,3-dimethyl-6-nitro-1-(2-oxo-butyl)-1,3-dihydro-indol-2-one (0.57 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 2 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 1-bromo-2-butanone | 15.2 mmol, 1.7 ml | BrCC(CC)=O | C4H7BrO
reactant | K2CO3 | 15.2 mmol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
product | 5-amino-3,3-dimethyl-6-nitro-1-(2-oxo-butyl)-1,3-dihydro-indol-2-one | 0.57 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CC(CC)=O)=O)(C)C | C14H17N3O4
